US08563717B2
Intermediate 63: 5-(3-Piperidinyl)-1-pentanol acetate
A solution of 5-(3-pyridinyl)-4-pentyn-1-ol (4.99 g, 31.0 mmol) in acetic acid (150 mL) was hydrogenated over platinium (IV) oxide (1.4 g, 6.16 mmol) for 18 hours. The mixture was filtered through a Celite cartridge, washed through with acetic acid and evaporated in vacuo to give a yellow oil. This was loaded in methanol and eluted on an aminopropyl (NH2) cartridge (70 g) with methanol (400 ml). The solvent was evaporated in vacuo to give the title compound as a colourless oil which solidified after being under vacuum for 18 hours (7.4 g).

reactant | 5-(3-pyridinyl)-4-pentyn-1-ol | 31.0 mmol, 4.99 g | N1=CC(=CC=C1)C#CCCCO | C10H11NO
reactant | acetic acid | 150 mL | C(C)(=O)O | C2H4O2
solvent | methanol | CO | CH4O
product | 5-(3-Piperidinyl)-1-pentanol acetate | C(C)(=O)OCCCCCC1CNCCC1 | C12H23NO2
